
** BQ with Single direction **



.subckt BQ IN OUT

Lin IN 1 2p
L1 2 3 1p
L2 3 4 1.5p
L3 4 OUT 1.5p
BJ1 1 0 jjmit area=0.6
RJ1 1 0 14
BJ2 1 2 jjmit area=0.6
RJ2 1 2 14
BJ3 4 0 jjmit area=2
RJ3 4 0 5
* BJ4 4 5 jjmit area=2
* RJ4 4 5 5


* RB IB 3 9
* IB1 0 2 pwl(0 0 1p 40u)
IB2 0 3 pwl(0 0 5p 250u)
.model jjmit jj(rtype=1, vg=2.8mV, cap=0.07pF, r0=160, rN=16, icrit=0.1mA)
.ends BQ